US05817603
N-[4-Chloro-5-(2-chloro-2-ethoxycarbonyleth-1-yl)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide (compound IIb.03)
3.5 g of N-(5-amino-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide in 5 ml of absolute acetonitrile were added dropwise to a suspension of 1.9 g of tert-butyl nitrite, 260 g of ethyl acrylate and 1.9 g of anhydrous copper(II) chloride in 200 ml of absolute acetonitrile at 0° C. The mixture was slowly warmed up to room temperature and was stirred at this temperature for 10 hours. 40 ml of dilute hydrochloric acid were then added, and the mixture was extracted three times with methyl tert-butyl ether. The combined organic phases were dried over sodium sulfate and evaporated down. The residue was chromatographed over silica gel (eluent: 2:1 petroleum ether/diethyl ether).

reactant | N-(5-amino-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide | 3.5 g | NC=1C(=CC(=C(C1)N1C(C2=C(C1=O)CCCC2)=O)F)Cl | C14H12ClFN2O2
reactant | tert-butyl nitrite | 1.9 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | ethyl acrylate | 260 g | C(C=C)(=O)OCC | C5H8O2
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | copper(II) chloride | 1.9 g | [Cu](Cl)Cl
product | N-[4-Chloro-5-(2-chloro-2-ethoxycarbonyleth-1-yl)-2-fluorophenyl]-3,4,5,6-tetrahydrophthalimide | ClC1=CC(=C(C=C1CC(C(=O)OCC)Cl)N1C(C2=C(C1=O)CCCC2)=O)F | C19H18Cl2FNO4
